US03985732
Preparation of Racemic 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)-dione
A mixture of 24.8 g. of racemic 1-(N-methylanthraniloyl)pyroline and 21 g. of dicyclohexylcarbonyl diimide in 300 ml. of tetrahydrofuran is stirred at room temperature for 24 hours and then heated on the steam bath for 4 hours. The reaction mixture is filtered to remove the insoluble dicyclohexyl urea and the mother liquid is concentrated to recover the desired product, which is further purified by recrystallization from ethyl acetate.

reactant | racemic 1-(N-methylanthraniloyl)pyroline | CNC=1C(C(=O)N2C=CCC2)=CC=CC1 | C12H14N2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | Racemic 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
